US07612104B2
2a) N-[5-(5-Trifluoromethyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-indan-2-yl]-acetamide
The mixture of 300 mg of 2-chloro-5-trifluoromethyl-[1,3,4]thiadiazol, 300 mg of N-(5-sulfamoyl-indan-2-yl)-acetamide, 1.8 g cesium carbonate und 10 ml of NMP was stirred at 70° C. for 3 hours. After cooling to room temperature 50 ml of water were added and with 2N hydrochloric acid a pH=3 was adjusted. The product was extracted twice with 30 ml of ethyl acetate, the organic layer was washed with 20 ml of water, dried over sodium sulfate and evaporated in vacuo. The resulting crude material was purified by column chromatography (silica gel, eluent: dichloromethane:methanol=90:10).

reactant | 2-chloro-5-trifluoromethyl-[1,3,4]thiadiazol | 300 mg | ClC=1SC(=NN1)C(F)(F)F | C3ClF3N2S
reactant | N-(5-sulfamoyl-indan-2-yl)-acetamide | 300 mg | S(N)(=O)(=O)C=1C=C2CC(CC2=CC1)NC(C)=O | C11H14N2O3S
reactant | cesium carbonate | 10 ml, 1.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | N-[5-(5-Trifluoromethyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-indan-2-yl]-acetamide | FC(C1=NN=C(S1)NS(=O)(=O)C=1C=C2CC(CC2=CC1)NC(C)=O)(F)F | C14H13F3N4O3S2
